US05811442
Under a nitrogen atmosphere, a solution of 3-bromo-5-hydroxymethylpyridine (379 mg, 2.0 mmol) in dry tetrahydrofuran (10 mL) was treated at ambient temperature with sodium hydride (160 mg, 4.0 mmol, 60% dispersion in mineral oil). After stirring 5 min at ambient temperature, the opaque, yellow mixture was treated with methyl iodide (342 mg, 2.4 mmol). After stirring 2 h at ambient temperature, the mixture was added to cold water (30 mL) and extracted with diethyl ether (3×20 mL). The combined ether extracts were dried (Na2SO4), filtered, and concentrated by rotary evaporation to an orange oil (429 mg). Purification by column chromatography on silica gel, eluting with 15% (v/v) ethyl acetate in hexane afforded 266 mg (65.3%) of 3-bromo-5-methoxymethylpyridine as a colorless oil.

reactant | 3-bromo-5-hydroxymethylpyridine | 2.0 mmol, 379 mg | BrC=1C=NC=C(C1)CO | C6H6BrNO
reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | methyl iodide | 2.4 mmol, 342 mg | CI | CH3I
reactant | water | 30 mL | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 3-bromo-5-methoxymethylpyridine | 266 mg, 65.3% | BrC=1C=NC=C(C1)COC | C7H8BrNO
